US06534495B1
To a stirred solution of 0.5 g of H-Aad(OtBu)-OH in 4.4 mL of aqueous 1 N sodium hydroxide was added 0.42 g of benzylsulfonylchloride in 2 mL of dioxane. After 16 hours at room temperature, additional 1.4 mL of aqueous 2 N sodium hydroxide, 0.5 mL of dioxane and 0.09 g of benzylsulfonylchloride were added and the reaction mixture stirred for an additional day. The dioxane was removed, water was added, the mixture made acid (pH 3) using hydrochloric acid and extracted twice with diethyl ether. The combined ether layers were dried over sodium sulfate and concentrated to give 235 mg of BzlSO2-Aad(OtBu)-OH.

reactant | H-Aad(OtBu)-OH | 0.5 g | N[C@@H](CCCC(=O)OC(C)(C)C)C(=O)O | C10H19NO4
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | benzylsulfonylchloride | 0.42 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | benzylsulfonylchloride | 0.09 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | BzlSO2-Aad(OtBu)-OH | 235 mg | C(C1=CC=CC=C1)S(=O)(=O)N[C@@H](CCCC(=O)OC(C)(C)C)C(=O)O | C17H25NO6S
